US04084001
N-Butylthiourea is treated with oxalyl chloride to give 1-butyl-2-thioxo-4,5-imidazolidinedione which when substituted for 1-methyl-2-thioxo-4,5-imidazolidinedione in the procedure of Example 1 gives S-[5-(N'-butylthioureido)pentyl]isothiourea.

reactant | N-Butylthiourea | C(CCC)NC(=S)N | C5H12N2S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1-butyl-2-thioxo-4,5-imidazolidinedione | C(CCC)N1C(NC(C1=O)=O)=S | C7H10N2O2S
